US07981892B2
N-(1-(4-(4-fluorophenyl)phthalazin-1-yl)piperidin-4-yl)-4-(trifluoromethyl)benzamide hydrochloride
Combine 1-(4-(4-fluorophenyl)phthalazin-1-yl)piperidin-4-amine (110 mg, 0.34 mmol), triethylamine (0.14 mL, 1.02 mmol) and dichloromethane (2 mL) at room temperature. Add 4-(trifluoromethyl)-benzoyl chloride (85 mg, 0.41 mmol) to the mixture and stir at room temperature overnight. Concentrate the reaction mixture and purify the resulting residue by flash chromatography (20:5:1. hexane:ethyl acetate: 2 M ammonia in methanol). Add 1 N HCl in diethyl ether to a solution of the isolated product in dichloromethane/methanol and remove the solvents under a stream of nitrogen gas to yield the title compound as a solid (57 mg, 32%). ES/MS m/z 495.2 (M+1).

reactant | 1-(4-(4-fluorophenyl)phthalazin-1-yl)piperidin-4-amine | 0.34 mmol, 110 mg | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1CCC(CC1)N | C19H19FN4
reactant | triethylamine | 1.02 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)-benzoyl chloride | 0.41 mmol, 85 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(1-(4-(4-fluorophenyl)phthalazin-1-yl)piperidin-4-yl)-4-(trifluoromethyl)benzamide hydrochloride | 57 mg, 32% | Cl.FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1CCC(CC1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C27H22F4N4O.ClH/c28-20-11-7-17(8-12-20)24-22-3-1-2-4-23(22)25(34-33-24)35-15-13-21(14-16-35)32-26(36)18-5-9-19(10-6-18)27(29,30)31;/h1-12,21H,13-16H2,(H,32,36);1H
